US07915250B2
A mixture of 3-azetidinol hydrochloride (10 g, 91 mmol), di-tert-butyl dicarbonate (18.8 g, 86.3 mmol) and sodium bicarbonate (15.3 g, 182 mmol) in dioxane:water (400 mL, 1:1) was stirred at room temperature for 15 hours. The organic portion was removed in vacuo and the aqueous portion was extracted with ethyl acetate three times. The combined organic portion was washed with 5% aqueous HCl, water, brine, dried over sodium sulfate, filtered and concentrated in-vacuo to afford 12.8 g, 74 mmol (81%) of 1,1-dimethylethyl 3-hydroxyazetidine-1-carboxylate as a colorless oil without further purification. 1H NMR (400 MHz, DMSO): 5.62 (d, 1H), 4.40-4.33 (m, 1H), 4.02-3.95 (m, 2H), 3.62-3.54 (m, 2H), 1.37 (s, 9H). GC/MS for C8H15NO3: 173.

reactant | 3-azetidinol hydrochloride | 91 mmol, 10 g | Cl.N1CC(C1)O
reactant | di-tert-butyl dicarbonate | 86.3 mmol, 18.8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium bicarbonate | 182 mmol, 15.3 g | C([O-])(O)=O.[Na+]
reactant | water | 400 mL | O | H2O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1,1-dimethylethyl 3-hydroxyazetidine-1-carboxylate | 74 mmol, 12.8 g, 81% | OC1CN(C1)C(=O)OC(C)(C)C | C8H15NO3
